US06326333B1
1-Ethyl-4-(8-methyl-2,3-dihydro-1,1,4,4-tetraoxobenz[1,4]dithiin-7-yl)carbonyl-5-propylcarbonyloxypyrazole
1.5 g (3.9 mmol) of 1-ethyl-5-hydroxy-4-(8-methyl-2,3-dihydro-1,1,4,4-tetraoxobenz[1,4]dithiin-7-yl)carbonylpyrazole were suspended in 20 ml of methylene chloride, and 0.42 g (3.9 mmol) of butyryl chloride and 0.39 g (0.42 mol) of triethylamine were added. After five hours of stirring at 20° C., the mixture was washed with 2N hydrochloric acid, sodium bicarbonate solution and water, dried and filtered off, and the solvent was distilled off. The residue was subsequently chromatographed over silica gel (mobile phase: ethyl acetate/cyclohexane=2/3).

reactant | 1-ethyl-5-hydroxy-4-(8-methyl-2,3-dihydro-1,1,4,4-tetraoxobenz[1,4]dithiin-7-yl)carbonylpyrazole | 3.9 mmol, 1.5 g | C(C)N1N=CC(=C1O)C(=O)C=1C=CC2=C(S(CCS2(=O)=O)(=O)=O)C1C | C15H16N2O6S2
reactant | butyryl chloride | 3.9 mmol, 0.42 g | C(CCC)(=O)Cl | C4H7ClO
reactant | triethylamine | 0.42 mol, 0.39 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-4-(8-methyl-2,3-dihydro-1,1,4,4-tetraoxobenz[1,4]dithiin-7-yl)carbonyl-5-propylcarbonyloxypyrazole | C(C)N1N=CC(=C1OC(=O)CCC)C(=O)C=1C=CC2=C(S(CCS2(=O)=O)(=O)=O)C1C | C19H22N2O7S2
